US06344460B1
5 g of 5-bromouracil (26.18 mmole) available from Aldrich Chemical Co., 0.196 g of sodium iodide (1.31 mmole), and 35 mL of DMF were added to a 200 mL two-necked round bottomed flask. The mixture was stirred for 10 minutes. 5.065 g of potassium carbonate (36.65 mmole) was added to the mixture. Then 8.3687 g of 80% propargyl bromide available from Aldrich Chemical Co. in toluene was added dropwise over 1.5 hours. The mixture was stirred at room temperature for 16 hours to yield a milky solution. The solution was added to a separatory funnel with 200 mL of deionized water and extracted twice with 100 mL portions of 1,2-dichloromethane. The organic layers were combined and dried over magnesium sulfate. The mixture was filtered to remove any solids and evaporated under vacuum to obtain a low volume liquid. The liquid was placed on a Kugelrohr apparatus to remove any DMF in the liquid to yield 1N,3N-bis(2-propynyl)-5-bromouracil as a solid which was approximately 98% pure as determined by HPLC.

reactant | 5-bromouracil | 26.18 mmole, 5 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | sodium iodide | 1.31 mmole, 0.196 g | [I-].[Na+]
reactant | potassium carbonate | 36.65 mmole, 5.065 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 8.3687 g | C(C#C)Br | C3H3Br
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | bis(2-propynyl)-5-bromouracil | C(C#C)C1=C(C(N(C(N1)=O)CC#C)=O)Br | C10H7BrN2O2
